US05939451
0.94 g (0.00275 mol) of 4-amino-N-(2-bromo-6-methyl-pyridin-4-yl)-benzenesulfonamide was stirred in 50 ml of 8M methylamine in ethanol in an autoclave at 135° C. for 40 hours. The methylamine was allowed to evaporate, the residue was dissolved in ethanol, treated with 2 g of silica gel, concentrated and the residue was chromatographed on silica gel, firstly with ethyl acetate/hexane 1:1, then 9:1. There was obtained 0.39 g (48%) of 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide as colourless crystals; m.p.: 173-175° C. 0.081 g (0.00028 mol) thereof was recrystallized from methanol, diethyl ether and hexane, dried in a high vacuum, dissolved in 3 ml of methanol and treated with 2.8 ml of 0.1N NaOH. The methanol was distilled off and the residue was freeze-dried twice. There was obtained 0.084 g (97%) of 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide sodium salt (1:1) as white crystals; MS (ISP): me/e=293 (C13H17N4O2S+). 0.31 g (0.0011 mol) of 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide was dissolved in 2 ml of methanol, treated with 1 ml of 2.4N HCl in diethyl ether and freed from solvent. The residue was dissolved in 1 ml of methanol and slowly added dropwise to diethyl ether while stirring vigorously. A colourless precipitate thereby separated and this was isolated and dried in a high vacuum. There was obtained 0.33 g (87%) of 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide hydrochloride (1:1.86) as white crystals; m.p.: >170° C. (dec.).

reactant | 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide | 0.0011 mol, 0.31 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)NC)C | C13H16N4O2S
reactant | HCl | 2.4N, 1 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 1 ml | CO | CH4O
product | 4-amino-N-(2-methyl-6-methylamino-pyridin-4-yl)-benzenesulfonamide hydrochloride | 0.33 g, 87% | Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)NC)C | InChI=1S/C13H16N4O2S.ClH/c1-9-7-11(8-13(15-2)16-9)17-20(18,19)12-5-3-10(14)4-6-12;/h3-8H,14H2,1-2H3,(H2,15,16,17);1H
